US08304556B2
B-27a) N′-Piperidin-4-ylidene-hydrazinecarboxylic acid tert-butyl ester hydrochloride
A mixture of 4-piperidone hydrochloride monohydrate (31.2 g, 203 mmol) and tert-butylcarbazate (26.8 g, 203 mmol) in 100 mL MeOH is stirred over weekend at RT and then concentrated in vacuo. The residue is crystallized from ethyl acetate. Yield: 47.5 g.

reactant | 4-piperidone hydrochloride monohydrate | 203 mmol, 31.2 g | O.Cl.N1CCC(CC1)=O
reactant | tert-butylcarbazate | 203 mmol, 26.8 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | MeOH | 100 mL | CO | CH4O
product | N′-Piperidin-4-ylidene-hydrazinecarboxylic acid tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(=O)NN=C1CCNCC1 | InChI=1S/C10H19N3O2.ClH/c1-10(2,3)15-9(14)13-12-8-4-6-11-7-5-8;/h11H,4-7H2,1-3H3,(H,13,14);1H
